US06828460B2
3-[2,4-Bis(methoxymethoxy)phenyl]-2-cyclopenten-1-one
1,3-Bis(methoxymethoxy)-4-bromobenzene (1.0 g) was dissolved in THF (20 ml) and cooled to −78° C. under argon. N,N,N′,N′-Tetramethylethylene diamine was added followed by dropwise addition of n-BuLi (3.4 ml of a 2.2M solution in hexanes) over 10 mins. After stirring at −78° C. for 1 hr, a solution of 3-methoxy-2-cyclopentene-1-one (605 mg) in THF (5 ml) was added slowly. The reaction mixture was stirred at −78° C. for 1 hr before warming to 0° C. 1 M HCl (20 ml) was added, and after 10 min the mixture was extracted with ethyl acetate (2×50 ml). The combined organic phases were washed with brine (30 ml), dried over magnesium sulfate, and concentrated in vacuo. The crude residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 1:1 v/v) to furnish the title compound as yellow oil (128 mg, 13%); m/z (ES+) 279 (M+1)+.

reactant | 1,3-Bis(methoxymethoxy)-4-bromobenzene | 1.0 g | COCOC1=CC(=C(C=C1)Br)OCOC | C10H13BrO4
reactant | N,N,N′,N′-Tetramethylethylene diamine | CN(CCN(C)C)C | C6H16N2
reactant | n-BuLi | [Li]CCCC
reactant | 3-methoxy-2-cyclopentene-1-one | 605 mg | COC1=CC(CC1)=O | C6H8O2
reactant | HCl | 1 M, 20 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-[2,4-Bis(methoxymethoxy)phenyl]-2-cyclopenten-1-one | 128 mg, 13% | COCOC1=C(C=CC(=C1)OCOC)C1=CC(CC1)=O | C15H18O5
